US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-3-(3-pyridylcarbonylamino)-phenyl]urea:
A solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-3-aminophenyl)urea (300 mg, 0.485 mmol), nicotinic acid (66 mg, 0.533 mmol), 1-hydroxybenzotriazole (131 mg, 0.97 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (93 mg, 0.485 mmol) and Et3N (0.06 ml, 0.485 mmol) in DMF (10 ml) is stirred at room temperature overnight. To the reaction solution is added water, and the mixture is extracted with ethyl acetate. The organic layer is washed twice with an aqueous ammonium chloride solution, and washed twice with an aqueous sodium hydrogen carbonate solution. The solvent is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography to give the title compound (243 mg, 0.373 mmol) as white crystals.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-3-aminophenyl)urea | 0.485 mmol, 300 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C(=CC=C1C(C)C)N)C(C)C)=O | C32H39N5O3
reactant | nicotinic acid | 0.533 mmol, 66 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 1-hydroxybenzotriazole | 0.97 mmol, 131 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.485 mmol, 93 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | Et3N | 0.485 mmol, 0.06 ml | CCN(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-3-(3-pyridylcarbonylamino)-phenyl]urea | 0.373 mmol, 243 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C(=CC=C1C(C)C)NC(=O)C=1C=NC=CC1)C(C)C)=O | C38H42N6O4
